US06559174B2
A solution of 99 mg (0.16 mmol) of 5-(BOC)-1-ethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole-4(S)-carbonyl)-4-(3 ′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester in 1 mL of EtOAc was treated with 3 mL of EtOAc saturated with HCl gas. A precipitate was formed immediately. After 1 hr the solid was filtered, washed with EtOAc and dried to yield 1-ethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole-4(S)-carbonyl)-4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester, hydrochloride (82 mg).

reactant | 4-(3 ′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester | ClC1=C(C(=O)NC2=CC=C(C[C@H](N)C(=O)OC)C=C2)C(=CN=C1)Cl | C16H15Cl2N3O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | 4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester, hydrochloride | 82 mg | Cl.ClC1=C(C(=O)NC2=CC=C(C[C@H](N)C(=O)OC)C=C2)C(=CN=C1)Cl | InChI=1S/C16H15Cl2N3O3.ClH/c1-24-16(23)13(19)6-9-2-4-10(5-3-9)21-15(22)14-11(17)7-20-8-12(14)18;/h2-5,7-8,13H,6,19H2,1H3,(H,21,22);1H/t13-;/m0./s1
